US07084155B2
Preparation of 5-tert-Butyl-1H-imidazole
Reaction of 1-bromo-3,3-dimethyl-butan-2-one (3.0 g, 16.80 mmol), and formamide (4.7 mL, 117.20 mmol), followed by chromatography (CH2Cl2/MeOH/NH4OH 94:3:3) gave the title compound (450 mg, 21%) as a yellow foam. 1H NMR (300 MHz, CDCl3) δ 1.29 (s, 9H), 6.77 (s, 1H), 7.57, (s, 1H). ES-MS m/z 125 (M+H).

reactant | 1-bromo-3,3-dimethyl-butan-2-one | 16.80 mmol, 3.0 g | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | formamide | 117.20 mmol, 4.7 mL | C(=O)N | CH3NO
reactant | CH2Cl2 MeOH NH4OH | C(Cl)Cl.CO.[NH4+].[OH-]
product | 5-tert-Butyl-1H-imidazole | 450 mg, 21% | C(C)(C)(C)C1=CN=CN1 | C7H12N2
